US06268387B1
3-(2-Acetylamino-4-methylthiazole-5sulfonylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 126 using 2-acetamido-4-methyl-5-thiazolesulfonyl chloride (0.76 g, 3.0 mmol) and 3-amino-4-methoxy-N-phenyl-benzamide (0.73 g, 3.0 mmol) to afford the product (0.7 g); m.p. 260-261° C. after trituration in diethyl ether.

reactant | 2-acetamido-4-methyl-5-thiazolesulfonyl chloride | 3.0 mmol, 0.76 g | C(C)(=O)NC=1SC(=C(N1)C)S(=O)(=O)Cl | C6H7ClN2O3S2
reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 3.0 mmol, 0.73 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
product | 3-(2-Acetylamino-4-methylthiazole-5sulfonylamino)-4-methoxy-N-phenyl-benzamide | 0.7 g | C(C)(=O)NC=1SC(=C(N1)C)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C20H20N4O5S2
